US06420566B2
a solution of 0.8 g of tert-butyl N-[(4RS)-4-hydroxymethyl-4,5-dihydrothiazol-2-yl]carbamate, 0.76 g of p-toluene-sulfonyl chloride and 0.56 cm3 of triethylamine in 25 cm3 of dichloromethane is stirred for 16 hours at a temperature in the region of 20° C. The solution obtained is concentrated under reduced pressure (1 kPa) at a temperature in the region of 40° C. The evaporation residue obtained is purified by chromatography under atmospheric pressure on a column of silica gel (particle size 60-200μ; diameter 2 cm; height 25 cm), eluting with a mixture of cyclohexane/ethyl acetate (70/30 by volume) and collecting 30 cm3 fractions. The fractions containing the expected product are combined and then concentrated under the above conditions. 0.8 g of tert-butyl N-[(4RS)-4-p-toluenesulfonylmethyl-4,5-dihydrothiazol-2-yl]carbamate is obtained in the form of a white solid [1H NMR spectrum (300 MHz, CDCl3, δ in ppm): 1.48 (s: 9H); 2.46 (s: 3H); 3.10 (dd, J=11.5 and 5.5 Hz: 1H); 3.33 (dd, J=11.5 and 8.5 Hz: 1H); 3.97 (dd, J=9.5 and 8 Hz: 1H); 4.06 (dd, J=9.5 and 4.5 Hz: 1H); 4.43 (mt: 1H); 7.36 (d, J=8 Hz: 2H); 7.80 (d, J=8 Hz: 2H); from 8.50 to 9.40 (very broad unresolved complex: 1H)].

reactant | tert-butyl N-[(4RS)-4-hydroxymethyl-4,5-dihydrothiazol-2-yl]carbamate | 0.8 g | OCC1N=C(SC1)NC(OC(C)(C)C)=O | C9H16N2O3S
reactant | p-toluene-sulfonyl chloride | 0.76 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 0.56 cm3 | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 25 cm3 | ClCCl | CH2Cl2
product | tert-butyl N-[(4RS)-4-p-toluenesulfonylmethyl-4,5-dihydrothiazol-2-yl]carbamate | 0.8 g | C1(=CC=C(C=C1)S(=O)(=O)CC1N=C(SC1)NC(OC(C)(C)C)=O)C | C16H22N2O4S2
